US05217999
α-Cyano-3,4-dihydroxycinnamamide
Reaction of 2.4 g (10 mmol) 3,4-dihydroxybenzaldehyde and 0.9 g (10.7 mmol) cyanoacetamide by the procedure described in Example 1 above gave 1.45 g (70% yield) of product as a yellow solid, m.p. 247° C.

reactant | 3,4-dihydroxybenzaldehyde | 10 mmol, 2.4 g | OC=1C=C(C=O)C=CC1O | C7H6O3
reactant | cyanoacetamide | 10.7 mmol, 0.9 g | C(#N)CC(=O)N | C3H4N2O
product | α-Cyano-3,4-dihydroxycinnamamide | 1.45 g, 70% yield | C(#N)C(C(=O)N)=CC1=CC(=C(C=C1)O)O | C10H8N2O3
